US06166006
In methanol (70 ml) was dissolved tert-butyl 4-[(benzyloxy)carbonyl]-4-methylaminobutyrate (6.06 g), and to the mixture was added 10% palladium-carbon (580 mg). Under hydrogen atmosphere, the mixture was stirred at room temperature for 3 hours, and 10% palladium-carbon was removed. The solvent was evaporated under reduced pressure to give tert-butyl 4-methylaminobutyrate (3.35 g, 98%). 1H NMR (200 MHz, CDCl3) δ 1.45 (9H, s), 1.72 (1H, brs), 1.77 (2H, quint, J=7.2 Hz), 2.27 (2H, t, J=7.3 Hz), 2.43 (3H, s), 2.61 (2H, t, J=7.1 Hz).

reactant | tert-butyl 4-[(benzyloxy)carbonyl]-4-methylaminobutyrate | 6.06 g | C(C1=CC=CC=C1)OC(=O)C(CCC(=O)OC(C)(C)C)NC | C17H25NO4
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium-carbon | 580 mg | [C].[Pd]
product | tert-butyl 4-methylaminobutyrate | 3.35 g, 98% | CNCCCC(=O)OC(C)(C)C | C9H19NO2
